US05550121
To a solution of (2S,4R)-N-tert-butoxycarbonyl-4-methanesulfonyloxyproline methyl ester (10.0 g, 30.9 mmol) in tetrahydrofuran--methanol (1:1, 100 ml) were successively added lithium chloride (3.93 g, 92.8 mmol) and sodium borohydride (3.51 g, 92.8 mmol). The reaction solution was stirred at room temperature for 11 h. Acetic acid (2 ml) was added to the reaction solution, and ethyl acetate and water were added thereto. The mixture was concentrated in vacuo. The residue was dissolved in water and ethyl acetate and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was removed in vacuo to obtain a residue of (2S,4R)-N-tert-butoxycarbonyl-2-hydroxymethyl-4-methanesulfonyloxyproline (9.41 g).

reactant | (2S,4R)-N-tert-butoxycarbonyl-4-methanesulfonyloxyproline methyl ester | 30.9 mmol, 10.0 g | COC([C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OC(C)(C)C)=O | C12H21NO7S
reactant | lithium chloride | 92.8 mmol, 3.93 g | [Cl-].[Li+]
reactant | sodium borohydride | 92.8 mmol, 3.51 g | [BH4-].[Na+]
reactant | Acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran--methanol | 100 ml | O1C(CCC1)CO | C5H10O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-N-tert-butoxycarbonyl-2-hydroxymethyl-4-methanesulfonyloxyproline | 9.41 g | C(C)(C)(C)OC(=O)N1[C@@](C(=O)O)(C[C@H](C1)OS(=O)(=O)C)CO | C12H21NO8S
